Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___: Small-bowel resection and ileocecectomy
 
History of Present Illness:
___ hx ___ disease, prostate CA s/p prostatectomy, SBO 
presenting with LLQ pain and abdominal distention. Patient 
reports over last few weeks, has been having intermittent spasms 
in LUQ. Mild mid abdominal pain, non-radiating, worse with 
eating. No alleviating factors. Associated distention and 
decreased flatus/BM, with thinner BMs than normal. Patient 
reports last BM this morning. Pain feels like previous bowel 
obstruction. Notes he has been vomiting, poor PO intake, noted 
collared greens from Christmas dinner in recent vomuit. Denies 
f/c, chest pain, shortness of breath, diarrhea, melena, 
hematochezia, urinary symptoms.  

Of note, patient recently admitted ___ for small bowel 
obstruction secondary to ___ stricture for which he was 
managed conservatively with NGT, steroids, abx.  Has been
undergoing remicade infusions, has received 3 infusions, the 
last
one week ago. He also is on 20 of pred and ___. He says he is 
not on mesalamine any longer
 
In the ED initial vitals were: 8 98.6 104 133/86 18 99  
- Labs were significant for wbc 14.7 with neutrophil 
predominance 90%, lactate 1.7. KUB and ab CT c/f Crohns-related 
SBO vs. less likely volvulus.  
- Patient was given  
___ 00:06 IV Ondansetron 4 mg  
___ 00:06 IVF 1000 mL NS  
___ 02:00 IVF 1000 mL NS  
___ 02:00 IV Dextrose 50% 25 gm for  
Patient was seen by ___ with recommendations for serial 
abodminal exams and decompression. NGT was placed.
Vitals prior to transfer were: 98.2 81 144/86 16 99% RA  

On the floor, the pt is not passing flatus, with mild abdominal 
distention but no pain. He is nauseous and thirsty.  

Review of Systems: As above, otherwise neg in detail. 
 
Past Medical History:
1. Crohns disease  
- ___ colonoscopy: edematous ulcerative lesions throughout 
colon  
- ___ with significant weight loss and decreased  
appetite  
- ___: CT: two distinct segmental small bowel abnormalities 
with edema,heterogenous enhancement, and surrounding 
inflammation and  
lymphadenopathy  
- ___ colonoscopy: inflamed and strictured TI with  
abscesses in the descending colon and sigmoid colon -- 
pathology: chronic active colitis at the TI, focal active 
colitis  
in the ascending colon and a single noncaseating mucosal  
granuloma in the ascending colon with moderately active colitis  

in the descending colon.  
- ___ EGD: erythema and erosions of the mucosa in the antrum as 
well as duodenal bulb ulcers and he was started on Pentasa  
- ___: hospitalized with abdominal pain, which showed 
increasing chronic inflammation of the distal ileum. Discharged 
on budesonide  
at that time  
- ___: started on 6-mercaptopurine; and up-titrated to 75 mg 
with  
relative clinical control at 75 mg of 6-mercaptopurine, 9 mg of  

budesonide, and full dose Pentasa  
- ___: high-grade small-bowel obstruction: resolved with IV 
steroids and he was discharged on prednisone taper, Pentasa, and 
 
to continue with ___  
- ___: started on remicaid and infliximab (#3 remicaide 
infusion on ___  
2. Prostate cancer s/p total prostectomy (___)  
3. pancreatic cyst  
- He underwent EUS with aspiration in ___ and had  
received serial MRIs with growth since then  
4. seborrheic keratosis  
5. undescended testicle  
6. osteoporosis  
7. COPD  

PSH:  
1. chest cyst removal  
2. total prostatectomy (___)  
3. bilateral inguinal hernia repairs  
 
Social History:
___
Family History:
Maternal cousin with ___ disease. No other family  
history of IBD or colon cancer  
 
Physical Exam:
ADMISSION:

Vitals - 98.6 150/74 80 18 100% RA  
GENERAL: NAD, tired appearing  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM, poor dentition, NGT in place draining stomach contents  
NECK: nontender supple neck, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: mildly distended, rumbling BS, mildly tender with focal 
rebound in LLQ, no guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose    
NEURO: CN II-XII intact, sensiromotor function grossly intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS:

___ 09:40PM   PLT COUNT-283
___ 09:40PM   NEUTS-90.0* LYMPHS-4.5* MONOS-5.0 EOS-0.3 
BASOS-0.2
___ 09:40PM   WBC-14.7*# RBC-4.69 HGB-14.4 HCT-42.3 MCV-90 
MCH-30.8 MCHC-34.1 RDW-14.3
___ 09:40PM   CRP-41.2*
___ 09:40PM   ALBUMIN-4.0
___ 09:40PM   LIPASE-13
___ 09:40PM   ALT(SGPT)-13 AST(SGOT)-22 ALK PHOS-41 TOT 
BILI-0.9
___ 09:40PM   estGFR-Using this
___ 09:40PM   GLUCOSE-59* UREA N-28* CREAT-0.8 SODIUM-136 
POTASSIUM-4.6 CHLORIDE-90* TOTAL CO2-29 ANION GAP-22*
___ 09:47PM   LACTATE-1.7
___ 10:47PM   ___ PTT-31.3 ___
___ 04:19AM   GLUCOSE-80 LACTATE-0.9
___ 03:38PM   PHOSPHATE-2.3* MAGNESIUM-1.9
___ 03:38PM   SODIUM-137 POTASSIUM-4.1 CHLORIDE-101

MICRO:

___ 6:20 pm BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:04 pm BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:40 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:

CXR ___:  
1. NG tube tip terminates outside of the field of view, likely 
in the stomach.  
2. No acute cardiopulmonary abnormality.  
KUB:  
Dilated small bowel with multiple air with fluid levels on 
upright view concerning for a small bowel obstruction.

CT ab/pelvis ___:
IMPRESSION:
1.  High-grade  small  bowel  obstruction  with  dilatation  of  
the  small  bowel
measuring  up  to  76  mm.  Etiology  of  obstruction  is  
somewhat  unclear.    Equivocal
mesenteric  swirling  ___  sign)  involving  decompressed 
 small  bowel  loops
just  distal  to  the  maximally  distended  small  bowel  can  
suggest  volvulus  as  the
obstructing  point  though  this  does  not  fit  the  clinical  
picture.    However,
wall  thickening  and  hyperemia  of  the  distal  involved  
small  bowel  suggests
___  involvement  as  the  far  more  likely  etiology.  
However,  this  finding
along  with  trace  ascites  is  can  be  seen  with  early  
ischemia.  Close  clinical
monitoring  and  emergent  surgical  consultation  is  advised.
2.  Anasarca.
3.  Centrilobular  emphysema.
4.  Bilateral  hip  configuration  suggestive  of  mixed  
pincer/CAM  type
femoroacetabular  impingement.  Associated  mild  to  moderate  
bilateral
degenerative  hip  joint  change.

 
Brief Hospital Course:
 ___ hx ___ disease, prostate CA s/p prostatectomy, SBO 
presenting with LLQ pain and abdominal distention, SBO on 
imaging.
  
# Small bowel ___: Likely due to known 
stricturing ___. Less likely volvulus given pt not in 
significant pain. No e/o abdominal sepsis. Rapid recurrence and 
stricturing nature of disease points to the need for operative 
management. Malnourished. He was started on IV steroids, mIVF 
with dextrose, thiamine, folate, MVI. ___ held per GI. Attempts 
at diet advancement failed after NGT removed and the pt was 
transferred to the colorectal surgical service for a Small-bowel 
resection and ileocecectomy which he tolerated well. At the time 
of discharge he was tolerating PO, was passing flatus and having 
bowel movements. He will follow up in Colorectal surgery clinic 
and will continue to follow with his PCP and GI physicians.

# Osteoporosis: Cont vit D, Ca held as it interfered with Phos 
repletion.

# Nutrition: Pt was started on TPN while in the hospital, which 
he tolerated well. Post op he was began on a clear diet, then 
transitioned to a regular diet, which he tolerated well. His 
PICC was d/ced prior to discharge 

# Pneumonia: He was treated for Hospital acquired pneumonia with 
vancomycin and Levofloxicin, which he tolerated well. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral 2 tabslet Daily 
2. Mercaptopurine 75 mg PO DAILY 
3. PredniSONE 20 mg PO DAILY 
4. Alprostadil 20 mcg INTRACAVERNOSAL DAILY PRN impotence 
5. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain  
Do not Drive or consume alcohol while taking this medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*60 Tablet Refills:*0
3. Alprostadil 20 mcg INTRACAVERNOSAL DAILY PRN impotence 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral 2 tabslet Daily 
5. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
6. Docusate Sodium 100 mg PO BID 
COntinue to take while taking oxycodone 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
a day Disp #*60 Capsule Refills:*0
7. Senna 8.6 mg PO BID:PRN constipation  
Continue to take while taking oxycodone 
RX *sennosides [senna] 8.6 mg 1 by mouth Twice a day Disp #*60 
Capsule Refills:*0

1. Acetaminophen 1000 mg PO TID 
2. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain  
Do not Drive or consume alcohol while taking this medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*60 Tablet Refills:*0
3. Alprostadil 20 mcg INTRACAVERNOSAL DAILY PRN impotence 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral 2 tabslet Daily 
5. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
6. Docusate Sodium 100 mg PO BID 
COntinue to take while taking oxycodone 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
a day Disp #*60 Capsule Refills:*0
7. Senna 8.6 mg PO BID:PRN constipation  
Continue to take while taking oxycodone 
RX *sennosides [senna] 8.6 mg 1 by mouth Twice a day Disp #*60 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn disease with obstruction.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after a small bowel resection 
and ileocecectomy for surgical management of your ___ 
bowel obstruction. You have recovered from this procedure well 
and you are now ready to return home. Samples from your colon 
were taken and this tissue has been sent to the pathology 
department for analysis. You will receive these pathology 
results at your follow-up appointment. If there is an urgent 
need for the surgeon to contact you regarding these results they 
will contact you before this time. You have tolerated a regular 
diet, passing gas and your pain is controlled with pain 
medications by mouth. You may return home to finish your 
recovery.
                            
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms do not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or extended constipation.
 
You have a long vertical incision on your abdomen that is closed 
with staples. This incision can be left open to air or covered 
with a dry sterile gauze dressing if the staples become 
irritated from clothing. The staples will stay in place until 
your first post-operative visit at which time they can be 
removed in the clinic, most likely by the office nurse. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub.
 
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___ Dr. ___. You may 
gradually increase your activity as tolerated but clear heavy 
exercise ________.
 
You will be prescribed a small amount of the pain medication 
oxycodone. Please take this medication exactly as prescribed. 
You may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___